US09034900B2
Step 5: 1-bromo-4-fluoro-2-methoxy-5-(methylsulfanylmethyl)benzene
Thiomethoxide (1.19 g, 17.0 mmol) was added to a solution of 1-bromo-5-(bromomethyl)-4-fluoro-2-methoxybenzene (4.9 g, 16.4 mmol) in anhydrous DMF (25 mL) at 0° C. The mixture was stirred at room temperature for 5 h, and then poured into water (40 mL). Extractive work up with ethyl acetate gave the title compound (4.3 g, 99.0%) as colorless oil which was carried on without purification. 1H NMR (CDCl3, 400 MHz) δ 7.50 (d, J=8.0 Hz, 1H), 6.64 (d, J=11.2 Hz, 1H), 3.88 (s, 3H), 3.63 (s, 2H), 2.04 (s, 3H).

reactant | Thiomethoxide | 17.0 mmol, 1.19 g | C[S-]
reactant | 1-bromo-5-(bromomethyl)-4-fluoro-2-methoxybenzene | 16.4 mmol, 4.9 g | BrC1=C(C=C(C(=C1)CBr)F)OC | C8H7Br2FO
reactant | water | 40 mL | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 1-bromo-4-fluoro-2-methoxy-5-(methylsulfanylmethyl)benzene | 4.3 g, 99.0% | BrC1=C(C=C(C(=C1)CSC)F)OC | C9H10BrFOS
